US06316503B1
Fuming nitric acid (90%, 5 mL) was added drop wise to 1,1,1,3,3,3-hexafluoro-2-phenyl-2-propanol (4.2 mL, 25 mmol) in concentrated suifliic acid (15 mL) at 0° C. The mixture was stirred at 0° C. for 30 minutes, and at room temperature for 2 hours. Then it was poured into ice water. The solid was fitered, washed with sodium bicarbonate solution, water, and hexane, and dried to give 6.2 g of 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3-nitrobenzene. 1H NMR (CDCl3): δ 8.66 (s, 1H), 8.38 (d, J=8 Hz, 1H), 8.06 (d, J=8 Hz, 1H), 7.69 (t, J=8 Hz, 1H), 3.66 (bs, 1H). MS (EI) m/z 289 (M+).

reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1,1,1,3,3,3-hexafluoro-2-phenyl-2-propanol | 25 mmol, 4.2 mL | FC(C(C(F)(F)F)(O)C1=CC=CC=C1)(F)F | C9H6F6O
product | 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3-nitrobenzene | 6.2 g | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H5F6NO3
